US06300342B1
1-[3-(4-cyano-phenyl)thiopropionyl]-6-phenylsulphonamido-1,2,3,4-tetrahydro-quinoline
4.9 g of 1-[3-(4-cyano-phenyl)propionyl]-6-phenylsulphonamido-1,2,3,4-tetrahydro-quinoline are dissolved in 110 ml of toluene and boiled with 2.5 g Lawesson reagent [2,4-bis(4-methoxy-phenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulphide] for 1 hour at 110-120° C. Then the mixture is evaporated to dryness and the residue is chromatographed over a silica gel column with methylene chloride/ethyl acetate=19:1.

reactant | 1-[3-(4-cyano-phenyl)propionyl]-6-phenylsulphonamido-1,2,3,4-tetrahydro-quinoline | 4.9 g | C(#N)C1=CC=C(C=C1)CCC(=O)N1CCCC2=CC(=CC=C12)NS(=O)(=O)C1=CC=CC=C1 | C25H23N3O3S
reactant | Lawesson reagent | 2.5 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 110 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[3-(4-cyano-phenyl)thiopropionyl]-6-phenylsulphonamido-1,2,3,4-tetrahydro-quinoline | C(#N)C1=CC=C(C=C1)CCC(=S)N1CCCC2=CC(=CC=C12)NS(=O)(=O)C1=CC=CC=C1 | C25H23N3O2S2
